US09108969B2
Step A: Preparation of Ethyl 4-Bromo-5-methoxy-1H-indole-2-carboxylate
To a suspension of ethyl 5-methoxy-1H-indole-2-carboxylate (5 g, 22.81 mmol) in acetic acid (100 mL) was added bromine (1.169 mL, 22.81 mmol) slowly at room temperature. The reaction mixture was stirred at room temperature for 2 days. The solid was filtered off, washed with acetic acid and hexanes, and dried to give the title compound as a white solid (6.8 g). LCMS m/z=298.6 [M+H]+.

reactant | ethyl 5-methoxy-1H-indole-2-carboxylate | 22.81 mmol, 5 g | COC=1C=C2C=C(NC2=CC1)C(=O)OCC | C12H13NO3
reactant | bromine | 22.81 mmol, 1.169 mL | BrBr | Br2
solvent | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
product | Ethyl 4-Bromo-5-methoxy-1H-indole-2-carboxylate | 6.8 g | BrC1=C2C=C(NC2=CC=C1OC)C(=O)OCC | C12H12BrNO3
